US03959169
About 125 parts 1,4-dichlorobutene-2 and 60 parts trimethylamine are mixed with 700 parts 2-hexanone in a stainless steel pressure reactor. The mixture is allowed to react for 5 hours at a temperature of about 75°C. to about 80°C. Next, 60 parts of water are added to the cooled reaction mixture. This mixture yields about 93.5% 4-chloro-2-butenyltrimethylammonium chloride. The 2-hexanone is removed either by vacuum distillation or separated by decantation from the reaction mixture. About 95% of the 2-hexanone is recovered for reuse.

reactant | 1,4-dichlorobutene-2 | C(/C=C/CCl)Cl | C4H6Cl2
reactant | trimethylamine | CN(C)C | C3H9N
reactant | 2-hexanone | CC(CCCC)=O | C6H12O
solvent | water | O | H2O
product | 4-chloro-2-butenyltrimethylammonium chloride | about 93.5% | [Cl-].ClCC=CC[N+](C)(C)C | InChI=1S/C7H15ClN.ClH/c1-9(2,3)7-5-4-6-8;/h4-5H,6-7H2,1-3H3;1H/q+1;/p-1
